* NMOS I-V Characteristics

* Power supply
Vds d 0 0
Vgs g 0 0

* NMOS transistor
M1 d g 0 0 NMOS W=10u L=1u

* MODEL (VERY IMPORTANT)
.model NMOS NMOS (LEVEL=1 VTO=1 KP=100u LAMBDA=0.02)

.control

* -------- OUTPUT CHARACTERISTICS (Id vs Vds) --------

setplot new
dc Vds 0 5 0.1 Vgs 0 5 1
plot -i(Vds)

* -------- TRANSFER CHARACTERISTICS (Id vs Vgs) --------

setplot new
dc Vgs 0 5 0.1 Vds 5 5 1
plot -i(Vds)

.endc

.end