* PMOS I-V Characteristics

* Supplies
Vsd s 0 0
Vsg g 0 0

* PMOS transistor
M1 d g s s PMOS W=10u L=1u

* MODEL
.model PMOS PMOS (LEVEL=1 VTO=-1 KP=50u LAMBDA=0.02)

.control

* -------- OUTPUT CHARACTERISTICS --------

setplot new
dc Vsd 0 5 0.1 Vsg 0 5 1
plot -i(Vsd)

* -------- TRANSFER CHARACTERISTICS --------

setplot new
dc Vsg 0 5 0.1 Vsd 5 5 1
plot -i(Vsd)

.endc

.end